US08563717B2
6-Amino-2-(butyloxy)-9-{4-[1-(1-ethylpropyl)-4-piperidinyl]butyl}-7,9-dihydro-8H-purin-8-one
3-Bromopentane (0.1 mmol) was weighed into a tube and an aliquot (0.4 ml, 0.12 mmol) of a solution of 2-(butyloxy)-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purin-6-amine (0.452 g mg, 1.2 mmol) suspended in DMF (4.8 ml) was added. DIPEA (40 μl, 0.229 mmol) was added and heated at 50° C. for 18 hours. An additional portion of 3-bromopentane (15 μl) and DIPEA (40 μl) was added and heating continued for a further 18 hours. Potassium carbonate (46 mg) was added and heating continued for a further 72 hours. DMSO (200 uL) was added and the resultant mixture filtered, the solution was purified by Mass Directed AutoPrep (Method A). The solvent was evaporated in vacuo using the Genevac. The residue was redissolved in 4M HCl/dioxane (0.2 ml), capped and stood at room temperature for 18 hours. The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus. The sample was dissolved in 1:1 DMSO:MeOH and purified by MDAP (Method C) and the solvent was evaporated in vacuo using the Genevac. The material was redissolved in methanol (0.5 ml), and applied to a 0.1 g aminopropyl SPE (preconditioned with methanol, 1.5 ml). The cartridge was eluted with methanol (1.5 ml), the solvent was removed to give the title compound (5.9 mg).

reactant | 3-Bromopentane | 0.1 mmol | BrC(CC)CC | C5H11Br
reactant | 2-(butyloxy)-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purin-6-amine | 1.2 mmol, 0.452 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCC1CCNCC1)OC)N | C19H32N6O2
reactant | DIPEA | 0.229 mmol, 40 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromopentane | 15 μl | BrC(CC)CC | C5H11Br
reactant | DIPEA | 40 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | Potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4.8 ml | CN(C)C=O | C3H7NO
solvent | DMSO | 200 uL | CS(=O)C | C2H6OS
product | 6-Amino-2-(butyloxy)-9-{4-[1-(1-ethylpropyl)-4-piperidinyl]butyl}-7,9-dihydro-8H-purin-8-one | 5.9 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCCC1CCN(CC1)C(CC)CC)=O | C23H40N6O2
